US07560558B2
Propyl 3-hydroxy-naphthalene-2-carboxylate (460 mg), 7-benzyloxy-4-chloro-6-methoxyquinoline (200 mg), and 4-dimethylaminopyridine (244 mg) were suspended in o-dichlorobenzene (4 ml), and the mixture was stirred at 120° C. for 5 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate, the solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-acetone to give propyl 3-(7-benzyloxy-6-methoxy-quinolin-4-yloxy)-naphthalene-2-carboxylate (165 mg, yield 50%).

reactant | Propyl 3-hydroxy-naphthalene-2-carboxylate | 460 mg | OC=1C(=CC2=CC=CC=C2C1)C(=O)OCCC | C14H14O3
reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline | 200 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 4 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | propyl 3-(7-benzyloxy-6-methoxy-quinolin-4-yloxy)-naphthalene-2-carboxylate | 165 mg, yield 50% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=CC2=CC=CC=C2C1)C(=O)OCCC)OC | C31H27NO5
